US07598255B2
2-(4-Fluoro-benzyl)-4-(4-fluoro-phenyl)-7-methyl-9-methylene-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine
To a solution of 2-(4-fluoro-benzyl)-4-(4-fluoro-phenyl)-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester in formic acid was added paraformaldehyde (10 equiv.). The mixture was heated at 80° C. for 6 h. The mixture was diluted with water and basified to pH ˜10 with 1 M NaOH. The mixture was extracted with CH2Cl2, dried and concentrated. Chromatography on SiO2 (0-5% 2 M NH3 in MeOH/CH2Cl2) afforded the desired compound. 2-(4-Fluoro-benzyl)-4-(4-fluoro-phenyl)-7-methyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine was also obtained. MS (ESI): exact mass calcd. for C23H21F2N3, 377.17; m/z found, 378.4 [M+H]+. 1H NMR (CDCl3): 7.50-7.46 (m, 2H), 7.42-7.37 (m, 2H), 7.17-7.12 (m, 2H), 6.99-6.94 (m, 4H), 6.03-6.01 (m, 1H), 5.47-5.46 (m, 1H), 4.25 (s, 2H), 3.51 (s, 2H), 2.87-2.83 (m, 2H), 2.76-2.72 (m, 2H), 2.41 (s, 3H).

reactant | 2-(4-fluoro-benzyl)-4-(4-fluoro-phenyl)-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=NC(=N2)CC2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C26H27F2N3O2
reactant | paraformaldehyde | 10 equiv. | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | NaOH | 1 M | [OH-].[Na+]
product | 2-(4-Fluoro-benzyl)-4-(4-fluoro-phenyl)-7-methyl-9-methylene-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | FC1=CC=C(CC=2N=C(C3=C(C(CN(CC3)C)=C)N2)C2=CC=C(C=C2)F)C=C1 | C23H21F2N3
